US08053589B1
Here, N-methyl-N-(2-methyl-2-nitro-propyl)-pyrrolidinium iodide was prepared by dissolving N-(2-methyl-2-nitro-propyl)-pyrrolidine (70 g, 0.4 mol) in toluene (100 mls), and thereafter under ice bath conditions adding drop wise methyl iodide (58 g, 26 mls, 0.41 mol) in toluene (70 mls) over a period of time of 30 minutes. After the addition was complete, the ice bath was removed and the solution was heated to a temperature of 80° C. A white solid was observed to precipitate. Stirring and heating were continued for an additional period of time of 6 hours. The white precipitate was recovered by filtration, and thereafter washed first with acetone (100 mls) and then with diethyl ether (50 mls) to yield after air drying 83 grams (65%), FTIR: (KBr, cm−1) 3026, 2978, 2874, 1544, 1492, 1475, 1459, 1439, 1377, 1344, 1307, 1229, 1195, 1152, 1052, 1012, 997, 926, 852, 833. 1H NMR (60 MHz, CDCl3/DMSO-d6, ref TMS, ppm) 1.85 (s, 6H) 2.1-2.3 (m, br, 4H) 2.96 (s, 2H) 3.9-3.7 (m, br, 4H) 4.45 (s, 3H). Elemental

reactant | N-(2-methyl-2-nitro-propyl)-pyrrolidine | 0.4 mol, 70 g | CC(CN1CCCC1)(C)[N+](=O)[O-] | C8H16N2O2
reactant | methyl iodide | 0.41 mol, 26 mls, 58 g | CI | CH3I
solvent | toluene | 100 mls | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 70 mls | C1(=CC=CC=C1)C | C7H8
product | N-methyl-N-(2-methyl-2-nitro-propyl)-pyrrolidinium iodide | [I-].C[N+]1(CCCC1)CC(C)([N+](=O)[O-])C | InChI=1S/C9H19N2O2.HI/c1-9(2,10(12)13)8-11(3)6-4-5-7-11;/h4-8H2,1-3H3;1H/q+1;/p-1
